US03953432
4,4-Dimethyl-2(2-α-furylethenyl)-2-oxazoline (P-1906) was prepared by reacting furfural with 2,4,4-trimethyl-2-oxazoline. The product had a boiling point of 87° at 0.14 mm and the nmr spectrum and infra-red absorption spectrum were consistent with the proposed structure. The oral LD0 by adminstration to mice was 50 mg/kg; the LD50 was 212 and the LD100 was 300 mg/kg.

reactant | furfural | C(C1=CC=CO1)=O | C5H4O2
reactant | 2,4,4-trimethyl-2-oxazoline | CC=1OCC(N1)(C)C | C6H11NO
product | 4,4-Dimethyl-2(2-α-furylethenyl)-2-oxazoline | CC1(COC(=N1)/C=C/C2=CC=CO2)C | C11H13NO2
